US07906645B2
3,4-Dichlorophenyl 4-[(1-methylpiperidin-3-yl)methyl]piperazine-1-carboxylate
3,4-Dichlorophenyl chloroformate (282 mg) in dichloromethane (10 ml) was added to a solution of 1-[(1-methylpiperidin-3-yl)methyl]piperazine (246 mg) in dichloromethane (2 ml) at room temperature. N,N-Diisopropylethylamine (0.44 ml) was added and the mixture stirred for 18 hours. Saturated aqueous sodium bicarbonate solution (5 ml) was added and the dichloromethane layer separated then concentrated in vacuo onto silica gel (0.5 g). The resulting powder was subjected to chromatography on silica gel (20 g) using a gradient of 100% dichloromethane through to 20% methanolic ammonia in dichloromethane to give the title compound (292 mg).

reactant | 3,4-Dichlorophenyl chloroformate | 282 mg | ClC(=O)OC1=CC(=C(C=C1)Cl)Cl | C7H3Cl3O2
reactant | 1-[(1-methylpiperidin-3-yl)methyl]piperazine | 246 mg | CN1CC(CCC1)CN1CCNCC1 | C11H23N3
reactant | N,N-Diisopropylethylamine | 0.44 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3,4-Dichlorophenyl 4-[(1-methylpiperidin-3-yl)methyl]piperazine-1-carboxylate | 292 mg | CN1CC(CCC1)CN1CCN(CC1)C(=O)OC1=CC(=C(C=C1)Cl)Cl | C18H25Cl2N3O2
